US05464781
Lithium triethylborohydride (a 1M solution in THF, 47 ml) was added to a solution of ethyl 6-ethoxy-4-(4-methoxyanilino)-7-methyl-1,8-naphthyridine-3-carboxylate (4.5 g) in THF (150 ml) with stirring under nitrogen at 0°-10° C. The mixture was allowed to warm up to ambient temperature and stirred at this temperature for 18 hours. Further lithium triethylborohydride solution (15 ml) was added and the solution stirred at ambient temperature for 4 hours. The reaction mixture was cooled to 5° C. and then 5M hydrochloric acid (5 ml) was added carefully followed by water (50 ml). The organic layer was separated and the aqueous layer extracted with ether. The aqueous layer was basified with 5M sodium hydroxide solution and extracted into ethyl acetate. The residue, obtained from the ethyl acetate extracts, was purified by flash chromatography on silica, using dichloromethane/IMS (15/1) as the mobile phase, to give 6-ethoxy-4-(4-methoxyanilino)-7-methyl-1,8-naphthyridin-3-ylmethanol, m.p. 193°-197° C.

reactant | Lithium triethylborohydride | C(C)[BH-](CC)CC.[Li+]
reactant | ethyl 6-ethoxy-4-(4-methoxyanilino)-7-methyl-1,8-naphthyridine-3-carboxylate | 4.5 g | C(C)OC=1C=C2C(=C(C=NC2=NC1C)C(=O)OCC)NC1=CC=C(C=C1)OC | C21H23N3O4
reactant | lithium triethylborohydride | 15 ml | C(C)[BH-](CC)CC.[Li+]
reactant | hydrochloric acid | 5M, 5 ml | Cl | ClH
reactant | water | 50 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 6-ethoxy-4-(4-methoxyanilino)-7-methyl-1,8-naphthyridin-3-ylmethanol | C(C)OC=1C=C2C(=C(C=NC2=NC1C)CO)NC1=CC=C(C=C1)OC | C19H21N3O3
